US07208629B2
5′-[(1H-1,2,3-Benzotriazol-1-yl)carbonyl]-2′-methyl-N-propyl-1,1′-biphenyl-3-carboxamide (25 mg, 0.062 mmol) in THF (1 ml) was mixed with cyclopropylamine (7.2 μl) in THF (0.6 ml) and the reaction stirred at room temperature for 4 h. The reaction was loaded onto an SPE (aminopropyl, 1 g) and eluted with chloroform, ethyl acetate and methanol. The solvent was evaporated from the product fractions to give N4′-cyclopropyl-6-methyl-N3-propyl-1,1′-biphenyl-3,4′-dicarboxamide. NMR: δH CDCl3 7.79, (2H, d), 7.67, (1H, dd), 7.60, (1H, d), 7.32, (3H, m), 6.56, (1H, s), 6.35, (1H, t), 3.41, (2H, q), 2.92, (1H, m), 2.25, (3H, s), 1.63, (2H, m), 0.97, (3H, t), 0.88, (2H, m), 0.65, (2H, m). LCMS: retention time 2.95 min, MH+337.

reactant | 5′-[(1H-1,2,3-Benzotriazol-1-yl)carbonyl]-2′-methyl-N-propyl-1,1′-biphenyl-3-carboxamide | 0.062 mmol, 25 mg | N1(N=NC2=C1C=CC=C2)C(=O)C=2C=CC(=C(C2)C2=CC(=CC=C2)C(=O)NCCC)C | C24H22N4O2
reactant | cyclopropylamine | 7.2 μl | C1(CC1)N | C3H7N
reactant | THF | 1 ml | C1CCOC1 | C4H8O
reactant | THF | 0.6 ml | C1CCOC1 | C4H8O
product | N4′-cyclopropyl-6-methyl-N3-propyl-1,1′-biphenyl-3,4′-dicarboxamide | C1(CC1)NC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)C(=O)NCCC | C21H24N2O2
